US05156763
4-Butoxybenzoic acid (23)
1-Bromobutane (22.6 g, 0.165 mol) was added dropwise at room temperature to a stirred mixture of 4-hydroxybenzoic acid (15.0 g, 0.11 mol) in ethanol (60 ml) and sodium hydroxide (10.60 g) in the minimum amount of water. The stirred mixture was heated under reflux overnight (tlc analysis revealed a complete reaction), and then the ethanol was distilled off and an equal volume of water was added. The mixture was boiled to give a solution, cooled, washed with ether and acidified with 36% hydrochloric acid. The cooled mixture was filtered, and the product was washed with water to give a colourless solid (13.9 g) which was recrystallised from ethanol to give colourless crystals.

reactant | 1-Bromobutane | 0.165 mol, 22.6 g | BrCCCC | C4H9Br
reactant | 4-hydroxybenzoic acid | 0.11 mol, 15.0 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | sodium hydroxide | 10.60 g | [OH-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 4-Butoxybenzoic acid | 13.9 g | C(CCC)OC1=CC=C(C(=O)O)C=C1 | C11H14O3
